US08530460B2
(S)—N-(1-(5-Hydroxypyridin-2-yl)ethyl)acetamide
To 1.00 g (5.73 mmol) (S)-6-(1-aminoethyl)pyridin-3-ol in 10 ml THF and 3.99 mL TEA (28.6 mmol) are slowly added 494 mg (6.30 mmol) acetyl chloride and stirring is continued for 2 h. The reaction is quenched by the addition of water and extracted several times with DCM. The org. layers are combined, dried over MgSO4, filtered and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, DCM/MeOH/NH3 90/9/1).

reactant | (S)-6-(1-aminoethyl)pyridin-3-ol | 5.73 mmol, 1.00 g | N[C@@H](C)C1=CC=C(C=N1)O | C7H10N2O
reactant | acetyl chloride | 6.30 mmol, 494 mg | C(C)(=O)Cl | C2H3ClO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S)—N-(1-(5-Hydroxypyridin-2-yl)ethyl)acetamide | OC=1C=CC(=NC1)[C@H](C)NC(C)=O | C9H12N2O2
